US07504408B2
5-chloro-7-iodo-1,3-benzodioxol-4-amine (600 mg, 2.02 mmol) and 4-methoxypent-1-yne (500 mg, 5.10 mmol) in ethyl acetate (8 ml) were cooled in ice-methanol, under an atmosphere of nitrogen, then treated with bis(triphenylphosphine)palladium(II) dichloride (141 mg, 10 mol %) followed by copper(I) iodide (38 mg, 10 mol %) and diisopropylamine (407 mg, 5.69 mmol). The reaction was allowed to warn to room temperature and stirred 90 min then filtered through Celite. The filtrate was purified by column chromatography on silica using a 1:1 mixture of methyl tert-butyl ether and iso-hexane as eluent to give 5-chloro-7-(4-methoxypent-1-yn-1-yl)-1,3-benzodioxol-4-amine (495 mg, 92%) as a dark brown oil;

reactant | 5-chloro-7-iodo-1,3-benzodioxol-4-amine | 2.02 mmol, 600 mg | ClC1=C(C2=C(OCO2)C(=C1)I)N | C7H5ClINO2
reactant | 4-methoxypent-1-yne | 5.10 mmol, 500 mg | COC(CC#C)C | C6H10O
reactant | diisopropylamine | 5.69 mmol, 407 mg | C(C)(C)NC(C)C | C6H15N
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 141 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 38 mg | [Cu]I
product | 5-chloro-7-(4-methoxypent-1-yn-1-yl)-1,3-benzodioxol-4-amine | 495 mg, 92% | ClC1=C(C2=C(OCO2)C(=C1)C#CCC(C)OC)N | C13H14ClNO3
